US05795903
0.74 g of 2-amino-5-methoxy-6-(trifluoromethoxy)benzothiazole, in solution in 20 ml of 47% hydrobromic acid, are brought to reflux for 20 hours. After cooling to a temperature in the region of 20° C., the reaction mixture is poured in 20 ml of ice-cold water and the solution is basified using concentrated sodium hydroxide. The organic phase is then extracted with ethyl acetate, dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (15 mm Hg, 2 kPa). The crude product thus obtained is purified by flash chromatography on a silica column, a dichloromethane/methanol (98/2 by volume) mixture being used as eluent. 0.49 g of 2-amino-5-hydroxy-6-(trifluoromethoxy)benzothiazole are thus isolated in the form of a white powder melting at 216° C. [(Analysis % calculated C: 38.40, H: 2.01, F: 22.78, N: 11.20, S: 12.82; % found C: 38.3, H: 1.9, F: 22.9, N: 11.2, S: 13.0); 1H N.M.R. spectrum (250 MHz, d6-(CD3)2SO, δ in ppm): 6.96 (broad s, 1H, aromatic H ortho to the OH), 7.54 (broad s, 2H, NH2), 7.61 (broad s, 1H, aromatic H meta to the OH), 9.95 (unresolved peak, 1H, OH)].

reactant | 2-amino-5-methoxy-6-(trifluoromethoxy)benzothiazole | 0.74 g | NC=1SC2=C(N1)C=C(C(=C2)OC(F)(F)F)OC | C9H7F3N2O2S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrobromic acid | 20 ml | Br | BrH
product | 2-amino-5-hydroxy-6-(trifluoromethoxy)benzothiazole | 0.49 g | NC=1SC2=C(N1)C=C(C(=C2)OC(F)(F)F)O | C8H5F3N2O2S
